US04198527
Following the method of Example 14, methyl propiolate and 4-chlorophenol are reacted to yield methyl 3-(4-chlorophenoxy)-2-propenoate.

reactant | methyl propiolate | C(C#C)(=O)OC | C4H4O2
reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
product | methyl 3-(4-chlorophenoxy)-2-propenoate | ClC1=CC=C(OC=CC(=O)OC)C=C1 | C10H9ClO3
